US04490527
(21) 3-[4-(1-piperidinylmethyl)phenoxy]-1-propanamine
Starting materials:piperidine and 4-hydroxybenzaldehyde

reactant | piperidine | N1CCCCC1 | C5H11N
reactant | 4-hydroxybenzaldehyde | OC1=CC=C(C=O)C=C1 | C7H6O2
product | 3-[4-(1-piperidinylmethyl)phenoxy]-1-propanamine | N1(CCCCC1)CC1=CC=C(OCCCN)C=C1 | C15H24N2O
